US04988698
To a solution of sodium hydroxide (14 g) in water (480 ml) was added 1-[2-(2,3-dihydro-3,3-dimethyl-2-oxoindol-5-yl)-2-oxoethyl]pyridinium chloride (44.3 g) and the mixture was stirred for 1.5 hours at 80° to 85° C. After cooling, the reaction mixture was acidified with conc. hydrochloric acid. The residual crystal was collected by filtration, washed with water and dried to give 2,3-dihydro-3,3-dimethyl-2-oxoindole-5-carboxylic acid (21 g).

reactant | sodium hydroxide | 14 g | [OH-].[Na+]
reactant | 1-[2-(2,3-dihydro-3,3-dimethyl-2-oxoindol-5-yl)-2-oxoethyl]pyridinium chloride | 44.3 g | [Cl-].CC1(C(NC2=CC=C(C=C12)C(C[N+]1=CC=CC=C1)=O)=O)C
reactant | hydrochloric acid | Cl | ClH
solvent | water | 480 ml | O | H2O
product | 2,3-dihydro-3,3-dimethyl-2-oxoindole-5-carboxylic acid | 21 g | CC1(C(NC2=CC=C(C=C12)C(=O)O)=O)C | C11H11NO3
